US03976695
Following the procedures of Example 6, 6-chloro-3,4-dibenzyloxystyrene oxide is refluxed with isopropylamine to give 6-chloro-α-(isopropylaminomethyl)-3,4-dibenzyloxybenzyl alcohol hydrochloride, m.p. 154°-163°C., which is hydrogenated to yield 6-chloro-α-(isopropylaminomethyl)-3,4-dihydroxybenzyl alcohol hydrochloride, m.p. 171°-172°

reactant | 6-chloro-3,4-dibenzyloxystyrene oxide | ClC1=CC(=C(C=C1C1CO1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19ClO3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-chloro-α-(isopropylaminomethyl)-3,4-dibenzyloxybenzyl alcohol hydrochloride | Cl.ClC1=CC(=C(C=C1C(CNC(C)C)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C25H28ClNO3.ClH/c1-18(2)27-15-23(28)21-13-24(29-16-19-9-5-3-6-10-19)25(14-22(21)26)30-17-20-11-7-4-8-12-20;/h3-14,18,23,27-28H,15-17H2,1-2H3;1H
